US06689922B1
j) Ethyl 5-{3-[3,4-bis-(tert-Butyldimethylsilanyloxymethyl)phenoxymethyl]phenyl}hexanoate
350 mg of 5% rhodium/alumina are added to 750 mg (1.22 mmol) of ethyl 5-{3-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]phenyl}-hexa-2,4-dienoate in 50 ml of ethyl acetate. Hydrogen is bubbled through the medium for 1 hour 30 minutes. The mixture is then filtered on celite and concentrated.

reactant | ethyl 5-{3-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]phenyl}-hexa-2,4-dienoate | 1.22 mmol, 750 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC=2C=C(C=CC2)C(=CC=CC(=O)OCC)C)C=CC1CO[Si](C)(C)C(C)(C)C | C35H54O5Si2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | rhodium/alumina | 350 mg | [Rh] | Rh
product | Ethyl 5-{3-[3,4-bis-(tert-Butyldimethylsilanyloxymethyl)phenoxymethyl]phenyl}hexanoate | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC=2C=C(C=CC2)C(CCCC(=O)OCC)C)C=CC1CO[Si](C)(C)C(C)(C)C | C35H58O5Si2
